US06914074B2
8-Chloro-3-(4-hydroxyphenyl)-7-hydroxy-1-naphthonitrile
The title compound was prepared by reacting 3-bromo-8-chloro-7-hydroxy-1-naphthonitrile (0.10 g, 0.37 mmol) with 4-tert-butyldimethylsilyloxyphenylboronic acid (0.13 g, 0.52 mmol) according to Method A to yield 0.036 g (33%) of a white solid: mp 254-256° C.; 1H NMR (DMSO-d6): δ 6.90 (2H, d, J=8.64 Hz), 7.43 (1H, d, J=8.95 Hz), 7.72 (2H, d, J=8.64 Hz), 7.99 (1H, d, J=8.97 Hz), 8.38 (1H, d, J=1.95 Hz), 8.47 (1H, d, J=1.92 Hz), 9.73 (1H, s), 11.08 (1H, s); MS (ESI) m/z 294/296 (M−H)−.

reactant | 3-bromo-8-chloro-7-hydroxy-1-naphthonitrile | 0.37 mmol, 0.10 g | BrC=1C=C(C2=C(C(=CC=C2C1)O)Cl)C#N | C11H5BrClNO
reactant | 4-tert-butyldimethylsilyloxyphenylboronic acid | 0.52 mmol, 0.13 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
product | 8-Chloro-3-(4-hydroxyphenyl)-7-hydroxy-1-naphthonitrile | ClC=1C(=CC=C2C=C(C=C(C12)C#N)C1=CC=C(C=C1)O)O | C17H10ClNO2
